Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base / Bactrim / Penicillins / Doxycycline / 
Clindamycin / Ciprofloxacin / Methotrexate / Arava / Plaquenil / 
methimazole / Keflex
 
Attending: ___.
 
Chief Complaint:
FTT, epigastric pain
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
Ms. ___ is a ___ Behcet's, Crohn's disease on 
Remicade and steroids presenting with abdominal pain.

The patient has recently had worsening abdominal pain, diarrhea, 
and rectal bleeding. She was seen at ___ and reported had a 
normal CT scan with stable changes in the distal ileum. She was 
subsequently seen by her gastroenterologist on ___, and she was 
switched from budesonide to prednisone and planned for 
colonoscopy. She underwent the colonoscopy on ___, which showed 
normal mucosa in the colon and ileum.

The patient reports that her diarrhea and rectal bleeding have 
improved. However, over the past two weeks she has developed 
worsening epigastric pain. She describes this as an intermittent 
squeezing sensation. The pain lasts minutes to hours and then 
abates. However, it has gotten progressively more painful and is 
now continuous. The pain awakens her from sleep. No clear 
relationship to eating; she placed herself on a clear liquid 
diet and this did not help. She feels that this pain is worsened 
by movement. No fevers or chills. Nausea but no vomiting. Other 
than the prednisone change noted above, no recent medication 
changes. She gets intermittent oral and vaginal ulcers but 
denies any currently. She endorses a 60 pound weight loss since 
___. Given her ongoing symptoms, she presented to the ED for 
further evaluation.

In the ED, vitals: 98.2 100 134/99 20 100% RA Exam: Mild to 
moderate epigastric tenderness to palpation. Labs notable for: 
WBC 14, Hb 12.9, plt 436; BMP, LFTs wnl; trop<0.01x1 Patient 
given: morphine 4 mg IVx3, Zofran 4 mg IV x2, omeprazole 20 mg, 
prednisone 15 mg, ranitidine 150 mg, Maalox, donnatol 10 mL, 
viscous lidocaine, famotidine 20 mg IV

On arrival to the floor, the patient states that her pain is 
improved and that hot packs are helping.

ROS: Pertinent positives and negatives as noted in the HPI. All 
other systems were reviewed and are negative. 

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
Bechet's
Crohn's disease with TI
___ esophagus
Gastritis
Gastric polyp
Ampullary site stensosi s/p sphincterotomy ___
___'s s/p thyroid resection
Ovarian dermoid cyst
SVT (rare, occurs only when dehydrated, not on any therapy)
Vitamin D deficiency
S/p tubal ligation
Pre-eclampsia
HELLP
 
Social History:
PAST MEDICAL/SURGICAL HISTORY:
Bechet's
Crohn's disease with TI
___ esophagus
Gastritis
Gastric polyp
Ampullary site stensosi s/p sphincterotomy ___
Grave's s/p thyroid resection
Ovarian dermoid cyst
SVT (rare, occurs only when dehydrated, not on any therapy)
Vitamin D deficiency
S/p tubal ligation
Pre-eclampsia
HELLP

SOCIAL HISTORY:
___
Family History:
FAMILY HISTORY: Per OMR:
Myeloma, prostate cancer, ulcerative colitis, celiac disease, 
___ Disease (mother)
 
Physical Exam:
ADMISSION: 
=========
VITALS: 97.9 135/87 65 18 96 Ra  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate; no oral
ulcers
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation in
midepigastrium. Bowel sounds present.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

DISCHARGE: 
=========
VS: ___ 0724 Temp: 98.3 PO BP: 117/74 HR: 65 RR: 18 O2 sat: 
97% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: mmm, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB
GI: Abdomen soft, non-distended, mildly tender to palpation in 
midepigastrium. Bowel sounds present.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: Very pleasant, appropriate affect
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
==========================
___ 12:04PM BLOOD WBC: 14.1* RBC: 5.39* Hgb: 12.9 Hct: 42.3
MCV: 79* MCH: 23.9* MCHC: 30.5* RDW: 16.5* RDWSD: 46.5* Plt Ct:
436* 
___ 12:04PM BLOOD Neuts: 79.2* Lymphs: 14.1* Monos: 4.8*
Eos: 0.6* Baso: 0.2 Im ___: 1.1* AbsNeut: 11.11* AbsLymp: 1.98
AbsMono: 0.68 AbsEos: 0.09 AbsBaso: 0.03 
___ 12:59PM BLOOD ___: 10.3 PTT: 25.8 ___: 0.9 
___ 12:04PM BLOOD Glucose: 104* UreaN: 10 Creat: 0.9 Na: 
137
K: 3.8 Cl: 97 HCO3: 24 AnGap: 16 
___ 12:04PM BLOOD ALT: 21 AST: 17 AlkPhos: 37 TotBili: 0.4 
___ 12:04PM BLOOD Lipase: 41 
___ 12:04PM BLOOD cTropnT: <0.01 
___ 12:04PM BLOOD proBNP: 45 

MICRO:
=====
none 

IMAGING/OTHER STUDIES: 
======================
- CTA torso (___):
IMPRESSION: 
1. No evidence of pulmonary embolism or acute aortic 
abnormality.
Specifically, no evidence of dissection. 
2. Few fluid-filled loops of small bowel demonstrate mild wall
enhancement, findings which can be seen in the setting of
gastroenteritis. 
3. Enlarged fibroid uterus. 

- CXR (___): IMPRESSION: No acute cardiopulmonary process. 

LABS AT DISCHARGE: 
=================
___ 07:40AM BLOOD WBC-8.8 RBC-4.76 Hgb-11.5 Hct-37.4 
MCV-79* MCH-24.2* MCHC-30.7* RDW-16.1* RDWSD-46.4* Plt ___
___ 07:40AM BLOOD Glucose-110* UreaN-10 Creat-0.9 Na-139 
K-4.6 Cl-99 HCO3-32 AnGap-8*
___ 07:40AM BLOOD Calcium-9.5 Phos-5.0* Mg-2.4
___ 07:40AM BLOOD TSH-0.23*
___ 07:00AM BLOOD Free T4-2.0*
___ 07:00AM BLOOD ___ dsDNA-PND
___ 07:00AM BLOOD SM ANTIBODY-PND
___ 07:00AM BLOOD RNP ANTIBODY-PND
___ 07:00AM BLOOD ANTI-HISTONE ANTIBODY-PND
 
Brief Hospital Course:
Ms. ___ is a ___ Behcet's, Crohn's disease on 
Remicade and steroids presenting with abdominal pain.

# Abdominal pain
# Behcet's 
# Crohn disease with TI
Patient presenting with progressively worsening epigastric 
abdominal pain. Given therapy with prednisone and Remicade, 
esophagitis was a consideration. Patient also with history of 
gastritis with metaplasia. However, EGD overall normal and does 
not seem to explain her current symptoms. Recent colonoscopy 
without evidence of active Crohn disease, so this is also less 
likely. Low suspicion for primary cardiac/pulmonary etiology 
given lack of risk factors, reproducibility of pain on exam, EKG 
without ischemic changes, trop negative, and CTA negative. Given 
extensive GI workup, likely significant etiology is function 
dyspepsia with visceral hypersensitivity and/or mixed IBS. The 
latter is supported with cycles of diarrhea and constipation 
with expected relief from defecation.  Some symptoms with 
features of gastroparesis and emptying could be considered in 
the outpatient setting. Patient followed by GI during her stay 
who emphasized management of symptoms as the cornerstone of her 
care rather than ongoing testing. There was an emphasis on 
ensure patient had normal bowel movements. She was reassured 
multiple times that no concerning pathology was identified, but 
also acknowledging that her symptoms were very distress. She 
will require ongoing close management with her outpatient GI 
doctor and PCP. She was given 3 tabs of oxycodone 5 mg to use 
only for severe abdominal pain. She was also prescribed a trial 
of amitriptyline 25 mg qhs for functional abdominal pain. She 
was prescribed a bowel regimen for her constipation.

# Chronic arthralgias/myalgias: 
Possibly extraintestinal manifestation of IBD. No obvious 
synovitis on exam. CRP reassuringly low. Patient correlates 
worsening of symptoms to starting remicade for Bechets. While 
rare, drug induced lupus has been associated with some TNF-alpha 
agents including infliximab. Though considered unlikely basic 
rheum workup obtained with ___, dsDNA, and including 
anti-histone antibodies (a more specific marker for DIL). These 
results were pending on discharge. 

# Grave's s/p thyroid resection: 
Continued levothyroxine. Repeat TSH slightly low at 0.23 and FT4 
slightly high at 2.0. She is not endorsing symptoms of 
hyperthyroidism and does not appear hyperthyroid on exam. 

# GERD -Continue omeprazole

TRANSITIONAL ISSUES: 
=================
[ ] Consider titrating levothyroxine as an outpatient.
[ ] F/u response to amitriptyline
[ ] Rheum workup pending

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q4H:PRN Headache 
2. DICYCLOMine 20 mg PO BID:PRN Stomach cramps 
3. Levoxyl (levothyroxine) 125 mcg oral DAILY 
4. Omeprazole 20 mg PO Q12H 
5. PredniSONE 15 mg PO BID 
6. InFLIXimab 500 mg IV Q8WEEKS 

 
Discharge Medications:
1.  Amitriptyline 25 mg PO QHS 
RX *amitriptyline 25 mg 1 tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0 
2.  Bisacodyl ___AILY:PRN Constipation - Second Line 
RX *bisacodyl 10 mg 1 tab rectally once a day Disp #*12 
Suppository Refills:*0 
3.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 packet(s) by 
mouth once a day Disp #*14 Packet Refills:*0 
6.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
7.  Acetaminophen 650 mg PO Q4H:PRN Headache  
8.  DICYCLOMine 20 mg PO BID:PRN Stomach cramps  
9.  InFLIXimab 500 mg IV Q8WEEKS  
10.  Levoxyl (levothyroxine) 125 mcg oral DAILY  
11.  Omeprazole 20 mg PO Q12H  
12.  PredniSONE 15 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# epigastric abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege to care for you at the ___ 
___. You were admitted for epigastric abdominal pain. 
Due to your Bechet's and immunosuppressive therapy, you 
underwent EGD which did not reveal any evidence of ulcers, 
infection, or other concerning findings. Your pain is likely due 
to functional dyspepsia with visceral hypersensitivity as well 
as severe irritable bowel syndrome. The cornerstone of treatment 
is focused on relieving symptoms. It is very important that you 
have regular bowel movements to prevent flares of pain and bowel 
dysmotility. You have a follow up appointment with your 
Gastroenterologist on ___ to discuss the plan moving forward. 


Please continue to take all medications as prescribed and follow 
up with all appointments as detailed below. 

We wish you the best! 

Sincerely,
Your ___ team 

 
Followup Instructions:
___